US05132475
In a 10 mL round-bottom flask, 1.02 g of phenylacetylene (10 mmol), 4.46 g of perfluoro-n-hexyl iodide (10 mmol), and 300 mg of tetra-n-butylammonium fluoride trihydrate (0.948 mmol) were mixed at 24° C. for 1 h. Gas chromatographic analysis of the resulting mixture showed that it contained 1.26 g of 1-iodo-2phenylacetylene (55% yield) and 0.45 g of unconverted phenylacetylene.

reactant | phenylacetylene | 10 mmol, 1.02 g | C1(=CC=CC=C1)C#C | C8H6
reactant | perfluoro-n-hexyl iodide | 10 mmol, 4.46 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C6F13I
reactant | tetra-n-butylammonium fluoride trihydrate | 0.948 mmol, 300 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | phenylacetylene | 0.45 g | C1(=CC=CC=C1)C#C | C8H6
product | 1-iodo-2phenylacetylene | 1.26 g, 55% yield | IC#CC1=CC=CC=C1 | C8H5I
